US08133909B2
(S)-2-Hydroxy-2-phenyl-N-quinolin-3-yl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
To a solution of 155 mg acetic acid (S)-phenyl-{quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-methyl ester in tetrahydrofuran (6.0 mL) were added 3.0 mL water and 20 mg lithium hydroxide monohydrate. The mixture was stirred at room temperature for 2 h. The mixture was diluted with water and extracted 3 times with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was purified with flash column chromatography on silica eluting with a gradient formed from heptane and ethylacetate to provide the title compound. MS(m/e): 451.1 [M+H]+.

reactant | acetic acid (S)-phenyl-{quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-methyl ester | 155 mg | C1(=CC=CC=C1)[C@@H](C(N(CCC1=CC=C(C=C1)C(F)(F)F)C=1C=NC2=CC=CC=C2C1)=O)OC(C)=O | C28H23F3N2O3
reactant | lithium hydroxide monohydrate | 20 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 3.0 mL | O | H2O
product | (S)-2-Hydroxy-2-phenyl-N-quinolin-3-yl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | O[C@H](C(=O)N(CCC1=CC=C(C=C1)C(F)(F)F)C=1C=NC2=CC=CC=C2C1)C1=CC=CC=C1 | C26H21F3N2O2
